US06706751B2
In analogy to example 2.9, 6-(4-Bromo-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester and diethylamine were converted to yield 6-(4-Diethylamino-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester as colorless oil.

reactant | 6-(4-Bromo-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC(=CC=C12)OCCCCBr | C18H26BrNO3
reactant | diethylamine | C(C)NCC | C4H11N
product | 6-(4-Diethylamino-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCCC2=CC(=CC=C12)OCCCCN(CC)CC | C22H36N2O3
